US08669361B2
tert-Butyl 2-(2,6-difluorophenyl)-4-(1-methyl-5-(4-oxocyclohexyl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate (68 mg, 0.13 mmol) was dissolved in methanol (3 mL) and sodium borohydride (16 mg, 0.39 mmol) was added. The mixture was stirred at RT for 30 min then quenched with sat. NaHCO3 and extracted with ethyl acetate three times. Combined organic layers were dried over sodium sulfate, filtered and concentrated to give the crude tert-butyl 2-(2,6-difluorophenyl)-4-(5-(4-hydroxycyclohexyl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate (58 mg, 85%).

reactant | tert-Butyl 2-(2,6-difluorophenyl)-4-(1-methyl-5-(4-oxocyclohexyl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 0.13 mmol, 68 mg | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1C1CCC(CC1)=O)C)=O)NC(OC(C)(C)C)=O | C25H27F2N5O4S
reactant | sodium borohydride | 0.39 mmol, 16 mg | [BH4-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | tert-butyl 2-(2,6-difluorophenyl)-4-(5-(4-hydroxycyclohexyl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 58 mg, 85% | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1C1CCC(CC1)O)C)=O)NC(OC(C)(C)C)=O | C25H29F2N5O4S
